US07199105B2
4-Butylpyridine was prepared by adding potassium-t-butoxide (0.68 g, 6 mmol) to propylphosphonium bromide (Aldrich) (2.4 g, 6.0 mmol) in THF (10 mL), at 0° C. and stirring at room temperature for 1 hour. Pyridine-4-carbaldehyde (428 mg, 4 mmol) was added and the reaction mixture stirred for 2 h. The reaction mixture was then poured into water and extracted with ethyl acetate. The product obtained after removing the solvent was taken as such in methanol (30 mL) to which palladium on carbon (10%, 300 mg) was added and hydrogenated at 1 atm pressure over night. Removal of solvent and purification on column chromatography using ethyl acetate resulted in pure product 4-butylpyridine (500 mg, 92%):

reactant | potassium-t-butoxide | 6 mmol, 0.68 g | CC(C)([O-])C.[K+]
reactant | propylphosphonium bromide | 6.0 mmol, 2.4 g | [Br-].C(CC)[PH3+]
reactant | Pyridine-4-carbaldehyde | 4 mmol, 428 mg | N1=CC=C(C=C1)C=O | C6H5NO
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-butylpyridine | 500 mg, 92% | C(CCC)C1=CC=NC=C1 | C9H13N
